US06977262B2
To a solution of 2-picoline (10 g) in THF (75 mL) was added n-BuLi (113 mmol) at −40° C. Further, methyl butanoate (15.8 mL) was added and the mixture was stirred for 1 hour, and the mixture quenched with water. The mixture was extracted with ethyl acetate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (1:1)) to give 2-(2-oxopentanyl)pyridine (4.8 g) as a yellow oil. A solution of 2-bromo-3-cyanobenzaldehyde (1.5 g), Meldrum's acid (1.0 g), 2-(2-oxopentanyl)pyridine (1.2 g) and ammonium acetate (0.6 g) in acetic acid (7 mL) was heated under reflux for 11 hours. The reaction mixture was cooled to room temperature, and the solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate (1:1)) and the obtained residue was crystallized from ethyl acetate to give colorless crystals (520 mg). To a solution of dimethylformamide (384 mg) in chloroform (5 mL) were added phosphorus oxychloride (805 mg) and a solution of the obtained crystals (520 mg) under ice-cooling, and the mixture was stirred overnight. Under ice-cooling, an aqueous sodium acetate (3.4 g) solution was added and the mixture was stirred for 1 hour. The mixture was extracted with ethyl acetate and the solvent was evaporated under reduced pressure to give oil. The obtained oil was purified by silica gel column chromatography (eluent: chloroform-methanol (9:1)) to give a yellow solid (530 mg). To a solution of the obtained solid in pyridine (10 mL) was added hydrazine (120 mg), and the mixture was stirred with heating for 4 hours. The reaction mixture was cooled to room temperature, and the solvent was evaporated under reduced pressure to give oil. To the obtained oil was added water and the mixture was extracted with ethyl acetate. The extract was washed a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was crystallized from ethyl acetate to give the title compound (145 mg) as a pale-yellow crystal.

reactant | 2-picoline | 10 g | N1=C(C=CC=C1)C | C6H7N
reactant | n-BuLi | 113 mmol | [Li]CCCC
reactant | methyl butanoate | 15.8 mL | C(CCC)(=O)OC | C5H10O2
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 2-(2-oxopentanyl)pyridine | 4.8 g | O=C(CC1=NC=CC=C1)CCC | C10H13NO
